US05495048
A solution of 45 ml of n-butyllithium (1.6M in hexane) is added dropwise to a suspension, cooled to -78° C., of 18.2 g of 1,4-dibromobenzene in 140 ml of THF. Then, 10 g of N-methoxy-N-methyl-2-(3-fluoro-4-trimethylsilanyloxy-phenyl)-acetamide (paragraph Bb)) in 35 ml of THF are added dropwise at -78° C. The reaction mixture is stirred at -78° C. for 2 hours, then left to stand at room temperature for 1 hour while stirring. After dilution with ethyl acetate, the mixture is washed with 10% aqueous KHSO4 solution, saturated NaHCO3 solution and 10% aqueous NaCl solution. After extraction with ethyl acetate, the organic phases are dried and concentrated. Then, the silyl group is cleaved with 105 ml of THF, 11 ml of H2O and 5 drops of 1N HCl. Concentration, dissolution in methylene chloride, drying and column chromatography over silica gel with methylene chloride/0.5% methanol as the eluent, give 9.2 g of 1-(4-bromo-phenyl)-2-(3-fluoro-4-hydroxyphenyl)-ethanone. MS: m/e 308 (M+, 1 Br).

reactant | n-butyllithium | 1.6M, 45 ml | C(CCC)[Li]
reactant | 1,4-dibromobenzene | 18.2 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | N-methoxy-N-methyl-2-(3-fluoro-4-trimethylsilanyloxy-phenyl)-acetamide | 10 g | CON(C(CC1=CC(=C(C=C1)O[Si](C)(C)C)F)=O)C | C13H20FNO3Si
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 1-(4-bromo-phenyl)-2-(3-fluoro-4-hydroxyphenyl)-ethanone | 9.2 g | BrC1=CC=C(C=C1)C(CC1=CC(=C(C=C1)O)F)=O | C14H10BrFO2
